US07119207B2
To a solution of 0.6 g (3.1 mmol) 6-methoxy-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one in 8 ml of acetic acid was added 8 ml of water. To this mixture was added 0.32 ml (6.2 mmol) of bromine. The reaction mixture was heated to 60° C. for 1 hour. The reaction mixture was cooled to room temperature and poured into 50 ml of water. The suspension was extracted with ethyl acetate. The ethyl acetate extracts were dried (Na2SO4) and evaporated. The residue was chromatographed on silica using chloroform as the elutant. Appropriate fractions were combined and evaporated to yield 0.69 g of 7-bromo-6-methoxy-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one. TLC Rf=0.8 (10:1 ethyl acetate/chloroform). 1H NMR (CDCl3) δ 7.42 (s, 1H), 4.0 (s, 3H), 3.3 (s, 3H), 3.0 (m, 2H), 2.7 (m, 2H). Mass Spectrum: m/e=271.2, 273.2 (p+1,3).

reactant | 6-methoxy-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one | 3.1 mmol, 0.6 g | COC=1N=C2CCC(N(C2=CC1)C)=O | C10H12N2O2
reactant | water | 8 ml | O | H2O
reactant | bromine | 6.2 mmol, 0.32 ml | BrBr | Br2
reactant | water | 50 ml | O | H2O
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 7-bromo-6-methoxy-1-methyl-3,4-dihydro-1H-[1,5]naphthyridin-2-one | 0.69 g | BrC1=C(N=C2CCC(N(C2=C1)C)=O)OC | C10H11BrN2O2
